US09301951B2
Intermediate 270a: benzyl 3-(3-(2-(2-(2-(2-hydroxyethoxy)ethoxy)ethoxy)ethoxy)prop-1-ynyl)benzoate
Into a 500-mL round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of benzyl 3-iodobenzoate (25.68 g, 66.19 mmol, 1.00 equiv) in tetrahydrofuran (300 mL), 2-(2-(2-(2-(prop-2-ynyloxy)ethoxy)ethoxy)ethoxy)ethanol (15.36 g, 66.21 mmol, 1.00 equiv), copper(I) iodide (1.26 g, 6.63 mmol, 0.10 equiv), Pd(PPh3)2Cl2 (4.65 g, 6.62 mmol, 0.10 equiv), triethylamine (13.4 g, 132.67 mmol, 2.00 equiv). The resulting solution was stirred for 3 h at room temperature. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with petroleum ether/ethyl acetate (1:1). This resulted in 20 g (68%) of benzyl 3-(3-(2-(2-(2-(2-hydroxyethoxy)ethoxy)ethoxy)ethoxy)prop-1-ynyl)benzoate as a brown oil.

reactant | benzyl 3-iodobenzoate | 66.19 mmol, 25.68 g, 1.00 equiv | IC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C14H11IO2
reactant | 2-(2-(2-(2-(prop-2-ynyloxy)ethoxy)ethoxy)ethoxy)ethanol | 66.21 mmol, 15.36 g, 1.00 equiv | C(C#C)OCCOCCOCCOCCO | C11H20O5
reactant | triethylamine | 132.67 mmol, 13.4 g, 2.00 equiv | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 6.63 mmol, 1.26 g, 0.10 equiv | [Cu]I
catalyst | Pd(PPh3)2Cl2 | 6.62 mmol, 4.65 g, 0.10 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | benzyl 3-(3-(2-(2-(2-(2-hydroxyethoxy)ethoxy)ethoxy)ethoxy)prop-1-ynyl)benzoate | OCCOCCOCCOCCOCC#CC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C25H30O7
